US07176242B2
1-Butyl-3-(trifluoroacetyl)-1H-indole-6-carboxylic acid (0.141 g) was dissolved in dichloromethane (10 mL). 1,1′-Carbonyldiimidazole (0.080 g) was added and the mixture was stirred at room temperature for 2 h. A solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (0.166 g) in dichloromethane was added and the mixture was allowed to stir overnight at room temperature. The mixture was then partitioned between dichloromethane and water, dried over sodium sulfate, filtered, and concentrated. Chromatography on silica gel using methanol/ethyl acetate/heptane/dichloromethane (3/10/10/77 to 6/10/10/74) gave 1-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-(trifluoroacetyl)-1H-indole-6-carboxamide (0.155 g). MS (ESI+) for C34H36F5N3O3+H1 m/z 630.28 (M+H)+.

reactant | 1-Butyl-3-(trifluoroacetyl)-1H-indole-6-carboxylic acid | 0.141 g | C(CCC)N1C=C(C2=CC=C(C=C12)C(=O)O)C(C(F)(F)F)=O | C15H14F3NO3
reactant | 1,1′-Carbonyldiimidazole | 0.080 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.166 g | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-(trifluoroacetyl)-1H-indole-6-carboxamide | 0.155 g | C(CCC)N1C=C(C2=CC=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F)C(C(F)(F)F)=O | C34H36F5N3O3
